US08487108B2
(S)-tert-butyl 1-amino-3-(tert-butyldimethylsilyloxy)propan-2-ylcarbamate (1 g, 3.29 mmol) was taken up in 10 mL of CH2Cl2 and cooled to 0° C. To this was added Et3N (0.731 g, 7.24 mmol), followed by 5-chloro-pentanoyl chloride (0.557 g, 3.62 mmol). The reaction mixture was allowed to warm to rt and stirred for 4 h. Upon completion of the reaction, satd NaCl solution was added. The organic layer was extracted with EA, dried over Na2SO4, and concentrated under reduced pressure. The residue was purified by column to give (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)-3-(5-chloropentanamido)propan-2-ylcarbamate (1.2 g, 86%). 1H NMR (CDCl3, 300 MHz) δ 6.31 (s, 1H), 5.04 (d, 1H), 3.65 (m, 3H), 3.53 (m, 2H), 3.40 (m, 2H), 2.18 (t, 2H), 1.78 (m, 4H), 1.43 (s, 9H), 0.88 (s, 9H), 0.0 (s, 6H).

reactant | (S)-tert-butyl 1-amino-3-(tert-butyldimethylsilyloxy)propan-2-ylcarbamate | 3.29 mmol, 1 g | NC[C@@H](CO[Si](C)(C)C(C)(C)C)NC(OC(C)(C)C)=O | C14H32N2O3Si
reactant | Et3N | 7.24 mmol, 0.731 g | CCN(CC)CC | C6H15N
reactant | 5-chloro-pentanoyl chloride | 3.62 mmol, 0.557 g | ClCCCCC(=O)Cl | C5H8Cl2O
reactant | NaCl | [Na+].[Cl-]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)-3-(5-chloropentanamido)propan-2-ylcarbamate | 1.2 g, 86% | [Si](C)(C)(C(C)(C)C)OC[C@H](CNC(CCCCCl)=O)NC(OC(C)(C)C)=O | C19H39ClN2O4Si
